US09227918B2
1o: Ethyl 5-bromo-2-(3,4-dimethoxyphenyl)-2-ethylpentanoate
For Step 1, (3,4-dimethoxy-phenyl)-acetic acid ethyl ester was substituted for (3,4-Dimethoxyphenyl)acetonitrile and diethyl sulfate was substituted for 2-bromopropane.

reactant | (3,4-dimethoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC)=O | C12H16O4
reactant | (3,4-Dimethoxyphenyl)acetonitrile | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | diethyl sulfate | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | 2-bromopropane | BrC(C)C | C3H7Br
product | Ethyl 5-bromo-2-(3,4-dimethoxyphenyl)-2-ethylpentanoate | BrCCCC(C(=O)OCC)(CC)C1=CC(=C(C=C1)OC)OC | C17H25BrO4
